US08703165B2
19.2 g 1-Dimethylamino-piperidin-4-one (prepared as described in Journal of Medicinal & Pharmaceutical Chemistry, 4, 423-36; 1961) and 30 g triethylamine are dissolved in 80 ml methanol. 18.8 g hydroxylamin hydrochloride is added in portions at ambient temperature. The internal temperature raises during the addition to 37° C. Then the mixture is heated to reflux for 3 hours, allowed to cool to room temperature, and then the solvent evaporated. The residue is partitioned between ethyl acetate and aqueous sodium bicarbonate. The organic layer is dried over sodium sulfate, and the solvent evaporated. Thus, 14.5 g 1-Dimethylamino-piperidin-4-one oxime is obtained. 1H-NMR (CDCl3): 8.10 ppm (s, broad, 1H), 2.75 ppm (m, 6H), 2.40 ppm (m, 2H), 2.40 ppm (s, 6H).

reactant | 1-Dimethylamino-piperidin-4-one | 19.2 g | CN(N1CCC(CC1)=O)C | C7H14N2O
reactant | triethylamine | 30 g | C(C)N(CC)CC | C6H15N
reactant | hydroxylamin hydrochloride | 18.8 g | Cl.NO
solvent | methanol | 80 ml | CO | CH4O
product | 1-Dimethylamino-piperidin-4-one oxime | 14.5 g | CN(N1CCC(CC1)=NO)C | C7H15N3O
